US06787536B2
5-(3,4-Dichlorophenyl)-2-piperazin-1-yl-pyrimidine, dihydrochloride
Prepared according to the method for the preparation of 5-(4-fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride, from 4-[5-(3,4-dichlorophenyl)-pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester (0.93 g), to furnish the title compound as an off-white solid (0.78 g, 90%).

reactant | 5-(4-fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCNCC1
reactant | 4-[5-(3,4-dichlorophenyl)-pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.93 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC(=C(C=C1)Cl)Cl | C19H22Cl2N4O2
product | 5-(3,4-Dichlorophenyl)-2-piperazin-1-yl-pyrimidine, dihydrochloride | 0.78 g, 90% | Cl.Cl.ClC=1C=C(C=CC1Cl)C=1C=NC(=NC1)N1CCNCC1 | InChI=1S/C14H14Cl2N4.2ClH/c15-12-2-1-10(7-13(12)16)11-8-18-14(19-9-11)20-5-3-17-4-6-20;;/h1-2,7-9,17H,3-6H2;2*1H
